US05725798
Synthesis of 6-(4'-decylbiphenylcarbonyloxy)-1,2,3,4-tetrahydro-2-naphthalenecarboxylic acid (R)-1-methylheptyl ester [Compound (475)]
To a mixture of 0.37 g (1.1 mmol) of 1,2,3,4-tetrahydro-6-hydroxynaphthalene-2-carboxylic acid (R)-1-methylheptyl ester obtained as in the fourth stage of Example 23 where (R)-1-methyl heputanol was used in stead of (R)-1-trifluoromethylheptanol, 0.33 g (1.1 mmol) of 4'-decylbiphenyl-4-carboxylic acid (FK-1124-10 from Teikoku Kagaku Sangyo K.K.), 0.013 g (0.11 mmol) of 4-N,N-dimethylaminopyridine and 10 ml of methylene chloride was added dropwise 5 ml of a methylene chloride solution containing 0.27 g (1.3 mmol) of N,N'-dicyclohexylcarbodiimide with stirring at room temperature over a period of 2.5 hours.

reactant | 1,2,3,4-tetrahydro-6-hydroxynaphthalene-2-carboxylic acid (R)-1-methylheptyl ester | 1.1 mmol, 0.37 g | C[C@H](CCCCCC)OC(=O)C1CC2=CC=C(C=C2CC1)O | C19H28O3
reactant | (R)-1-trifluoromethylheptanol | FC([C@@H](CCCCCC)O)(F)F | C8H15F3O
reactant | 4'-decylbiphenyl-4-carboxylic acid | 1.1 mmol, 0.33 g | C(CCCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C23H30O2
reactant | N,N'-dicyclohexylcarbodiimide | 1.3 mmol, 0.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-(4'-decylbiphenylcarbonyloxy)-1,2,3,4-tetrahydro-2-naphthalenecarboxylic acid (R)-1-methylheptyl ester | C[C@H](CCCCCC)OC(=O)C1CC2=CC=C(C=C2CC1)OC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CCCCCCCCCC | C42H56O4
